US08202872B2
A mixture of 3-(2-chloroethoxy)-1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazole (0.2 g, 0.65 mmol), ethyl piperazine-1-carboxylate (0.113 g, 0.72 mmol), K2CO3 (270 mg, 1.96 mmol) and NaI (98 mg, 0.65 mmol) in dry dimethylformamide (6 ml) was warmed overnight at 85° C., and then an additionally 16 hrs at 95° C., in a dry nitrogen atmosphere. Solvents were evaporated in vacuo and the crude residue partitioned in water/ethyle acetate. The combined organic extracts were washed with water, dried on Na2SO4 and concentrated in vacuo to obtain a crude oil, which was purified by column chromatography on silica gel (ethyl acetate/petroleum ether 8:2) yielding 69 mg of ethyl 4-{2-[1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}piperazine carboxylate as a colourless oil

reactant | 3-(2-chloroethoxy)-1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazole | 0.65 mmol, 0.2 g | ClCCOC1=NN(C(=C1)C)C1=CC(=C(C=C1)Cl)Cl | C12H11Cl3N2O
reactant | ethyl piperazine-1-carboxylate | 0.72 mmol, 0.113 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | K2CO3 | 1.96 mmol, 270 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.65 mmol, 98 mg | [Na+].[I-]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | ethyl 4-{2-[1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}piperazine carboxylate | 69 mg | ClC=1C=C(C=CC1Cl)N1N=C(C=C1C)OCCN1CCN(CC1)C(=O)OCC | C19H24Cl2N4O3
